US05136868
In the manner of Example 1, Step A, the reaction of 3.4 g (0.016 mole) of 2,4-dichloro-5-methylphenyl isocyanate and 3.6 g (0.031 mole) of trimethylsilyl azide produced 1.07 g of 1-(2,4-dichloro-5-methylphenyl)-1,4-dihydro-5H-tetrazol-5-one as a solid, mp 135°-137° C.

reactant | 2,4-dichloro-5-methylphenyl isocyanate | 0.016 mole, 3.4 g | ClC1=C(C=C(C(=C1)Cl)C)N=C=O | C8H5Cl2NO
reactant | trimethylsilyl azide | 0.031 mole, 3.6 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 1-(2,4-dichloro-5-methylphenyl)-1,4-dihydro-5H-tetrazol-5-one | 1.07 g | ClC1=C(C=C(C(=C1)Cl)C)N1N=NNC1=O | C8H6Cl2N4O
